US04561501
Calcium isostearate was prepared from isostearic acid and calcium hydroxide rather than from sodium isostearate and calcium chloride.

reactant | isostearic acid | C(CCCCCCCCCCCCCCC(C)C)(=O)O | C18H36O2
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | sodium isostearate | C(CCCCCCCCCCCCCCC(C)C)(=O)[O-].[Na+]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
product | Calcium isostearate | C(CCCCCCCCCCCCCCC(C)C)(=O)[O-].[Ca+2].C(CCCCCCCCCCCCCCC(C)C)(=O)[O-] | InChI=1S/2C18H36O2.Ca/c2*1-17(2)15-13-11-9-7-5-3-4-6-8-10-12-14-16-18(19)20;/h2*17H,3-16H2,1-2H3,(H,19,20);/q;;+2/p-2
